US04263324
70 g of methyl undecyl ketone are added to 250 ml of formamide. The mixture is heated, with constant stirring, to 160° C. Then 40 ml of formic acid are added dropwise in the course of 24 hours. The reaction mixture is cooled, poured on ice, extracted with ether and the ethereal extract is dried over Na2SO4. After distilling off the ether, the oily residue is distilled in vacuo, affording 60 g of 2-formamidotridecane. Boiling point: 145°-155° C./0.01.

reactant | methyl undecyl ketone | 70 g | C(CCCCCCCCCC)C(=O)C | C13H26O
reactant | formamide | 250 ml | C(=O)N | CH3NO
solvent | formic acid | 40 ml | C(=O)O | CH2O2
product | 2-formamidotridecane | 60 g | C(=O)NC(C)CCCCCCCCCCC | C14H29NO
